* d:\vlsi\github\8bit_dac\schematics\2bit_dac\2bit_dac.cir

r4  net-_r3-pad2_ /vrefl resistor
r3  net-_r2-pad2_ net-_r3-pad2_ resistor
r2  net-_r1-pad2_ net-_r2-pad2_ resistor
r1  /vrefh net-_r1-pad2_ resistor
* u1  /vrefh /vrefl /d0 /vrefh /d1 /vout port
s2  /vrefh /d0 net-_r3-pad2_ /vrefl net-_s2-pad5_ switch
s1  /vrefh /d0 net-_r1-pad2_ net-_r2-pad2_ net-_s1-pad5_ switch
s3  /vrefh /d1 net-_s1-pad5_ net-_s2-pad5_ /vout switch
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
